US06124280
EXAMPLE 1 4,4'-(4-Hydroxy-1-methyl-4,4-diphenylbutylidene)-bisphenol
A solution of 4,4-bis(4-hydroxyphenyl)pentanoic acid methyl ester (4.58 g, 15.3 mmol) in 100 mL of anhydrous tetrahydrofuran was cooled to 0° C. and treated dropwise with phenylmagnesium bromide (10 mL of a 3M solution in ether). Additional tetrahydrofuran (50 mL) was added to the reaction mixture followed by phenylmagnesium bromide (10.4 mL of a 3M solution in ether). The reaction was warmed to room temperature and stirred for 3 hours. The reaction was cooled to 0° C. and treated with phenylmagnesium bromide (10.2 mL of a 3M solution in ether). The reaction mixture was warmed to room temperature and stirred for 18 hours. The reaction mixture was cooled to 0° C. and treated with saturated aqueous NH4Cl solution (100 mL). The organic phase was collected and the aqueous phase was extracted with ethyl acetate (3×100 mL). The combined organic extracts were dried (MgSO4), filtered and concentrated. The residue was purified by chromatography (silica gel, 40% ethyl acetate/hexanes) to give the title compound (6.22 g, 96%) as a white solid.

reactant | 4,4-bis(4-hydroxyphenyl)pentanoic acid methyl ester | 15.3 mmol, 4.58 g | COC(CCC(C)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O)=O | C18H20O4
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 4,4'-(4-Hydroxy-1-methyl-4,4-diphenylbutylidene)-bisphenol | 6.22 g, 96% | OC(CCC(C)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H28O3
